US05382688
1,1-bis[4-(4-nitrobenzyl)phenyl]cyclohexane 98.93 g was dissolved in 1100 ml of tetrahydrofuran, a Pd--C catalyst (5% purity, water content 55.9%) 9.8 g was added, and the mixture was cooled with water at atmospheric pressure and contacted with hydrogen gas with stirring. After the absorption of hydrogen stopped, the catalyst was filtered off and the solution was concentrated. The concentrate was recrystallized with toluene solvent to obtain 71.71 g of 1,1-bis[4-(4aminobenzyl)phenyl]cyclohexane which is a diamino compound of the present invention. The melting point was 154.4°-155.5° C.

reactant | 1,1-bis[4-(4-nitrobenzyl)phenyl]cyclohexane | 98.93 g | [N+](=O)([O-])C1=CC=C(CC2=CC=C(C=C2)C2(CCCCC2)C2=CC=C(C=C2)CC2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C32H30N2O4
reactant | water | O | H2O
reactant | hydrogen | [H][H] | H2
solvent | tetrahydrofuran | 1100 ml | O1CCCC1 | C4H8O
product | 1,1-bis[4-(4aminobenzyl)phenyl]cyclohexane | 71.71 g | NC1=CC=C(CC2=CC=C(C=C2)C2(CCCCC2)C2=CC=C(C=C2)CC2=CC=C(C=C2)N)C=C1 | C32H34N2
